US06468979B1
Preparation of 2-thiophen-2-ylthiazole-4-carbaldehyde (Intermediate E)
TEMPO (5.1 mg; 0.0329 mmol) and a solution of KBr (39.2 mg; 0.329 mmol) in water (0.5 ml) were added to a solution of (2-thiophen-2-ylthiazole-4-yl)methanol (0.65 g; 3.29 mmol) in CH2Cl2 (12 ml), followed, after cooling to 0-5° C., by dropwise addition of a solution of 7.1% sodium hypochlorite (4.1 ml; 4.1 mmol) and NaHCO3 (245 mg).

reactant | TEMPO | 0.0329 mmol, 5.1 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | KBr | 0.329 mmol, 39.2 mg | [K+].[Br-]
reactant | (2-thiophen-2-ylthiazole-4-yl)methanol | 3.29 mmol, 0.65 g | S1C(=CC=C1)C=1SC=C(N1)CO | C8H7NOS2
reactant | sodium hypochlorite | 4.1 mmol, 4.1 ml | Cl[O-].[Na+]
reactant | NaHCO3 | 245 mg | C(=O)(O)[O-].[Na+]
solvent | water | 0.5 ml | O | H2O
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
product | 2-thiophen-2-ylthiazole-4-carbaldehyde | S1C(=CC=C1)C=1SC=C(N1)C=O | C8H5NOS2
